* sg13g2-lna -- npn13G2 held-base breakdown extraction + naive-method
* control, BENCH B (voltage-driven .dc sweep). Issue #20.
*
* Generated from
* sim/breakdown-extraction/testbench/tb_bvcer_vsweep.spice.tmpl by
* sim/breakdown-extraction/run_breakdown_sweep.sh -- do not edit a
* generated netlist-snapshots/*.spice file directly, edit this template
* and re-run the sweep. Full methodology and caveats are in
* sim/breakdown-extraction/README.md.
*
* Generated for: HBT_SECTION=hbt_bcs TEMP=-40 Nx=8
* selft=1 RB=1.4e4 Ohm, V_CE swept 0.20 V ->
* 5.40 V in 0.04 V steps.
*
* WHAT THIS BENCH IS, AND WHEN IT IS VALID
* ----------------------------------------
* A voltage-driven .dc sweep is the WRONG bench for the open base --
* that is the method issue #20 and
* spec/decision-records/0001-bias-supply-topology.md both call
* numerically untrustworthy, because the open-base locus is S-shaped and
* the solver picks a branch by initial guess (see Bench A's header).
*
* It is, however, the RIGHT bench for the two things it is used for
* here, and for neither of them does the branch ambiguity arise:
*
*   1. HELD-BASE EXTRACTION (RB finite -> BVCER; RB -> 0 -> BVCES).
*      With the base tied to the emitter through a low impedance the
*      device is off: the avalanche-generated base current is swallowed
*      by Rbe instead of being amplified by the device's own current
*      gain, so there is no regenerative feedback, no snapback, and
*      I_C(V_CE) is monotone and single-valued over the whole swept
*      range. The collector current read out at V_CE = 1.12 / 1.40 /
*      1.60 / 2.00 V is then directly usable: it is what the cascode
*      device Q2 would leak at DR-0001's worst-case V_CE, at
*      BVCEO(min), at the model card's vce_max, and at the top of the
*      card's stated validity range. The V_CE at which I_C crosses a
*      stated current criterion (if it ever does) is the corresponding
*      BVCER/BVCES figure.
*
*   2. NAIVE-METHOD CONTROL (RB = 1e9 Ohm, the quasi-open base
*      impedance of the uncommitted spot check quoted in DR-0001). Run
*      this way the bench deliberately reproduces that spot check's
*      behaviour, so the committed record carries the evidence for *why*
*      Bench A exists instead of asking a reader to take it on trust.
*      Nothing from these cells is quoted as a BVCEO value.
*
* TOPOLOGY -- identical to Bench A except for the collector drive:
*   Vce c 0      -- an ideal DC voltage source; V_CE is the swept
*                   (independent) quantity and I_C = -i(Vce) is
*                   measured. No series or load resistance: the source
*                   is ideal, so there is no load line to intersect and
*                   no compliance limit.
*   Rbe b e      -- base termination (RB -> 0: BVCES; RB finite: BVCER;
*                   RB = 1e9: the quasi-open control), as in Bench A.
*   Ve e 0       -- emitter at ground through a 0 V source.
*   XQ1's 4th terminal (bn) tied to 0.
*
* NO RF PORT, NO 50 OHM REFERENCE -- DC only, as in Bench A.
*
* The swept range deliberately runs past the model card's own declared
* limits (vce_max = 1.6 V, vbc_max = 5.1 V, and the stated validity box
* vce : 0.4 - 2.0 V). Everything above 2.0 V is an extrapolation of the
* model outside the range its authors validated it over, and both the
* README and the record label it as such; it is swept only to show
* whether an avalanche runaway exists anywhere below (and, for the
* explicitly-labelled extended-ceiling cells, well above) the B-C
* limit -- not to claim a breakdown number there.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_bcs

.options temp=-40 tnom=27

Vce c 0 dc 0
Rbe b e 1.4e4
Ve e 0 dc 0
XQ1 c b e 0 npn13G2 Nx=8 selft=1

* The swept table is written to its own file (/Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-20/sim/breakdown-extraction/corners/20260918-212948-013274f/b_nx8_bcs_-40c_rb14k_st1.meas, committed
* next to the console log under corners/<record-id>/) for the same
* reason Bench A redirects its echoes: ngspice's convergence
* diagnostics interleave mid-line with console output and would
* silently corrupt a row rather than fail loudly.

.control
dc Vce 0.20 5.40 0.04
let ic = -i(Vce)
let vbe = v(b)-v(e)
print ic vbe > /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-20/sim/breakdown-extraction/corners/20260918-212948-013274f/b_nx8_bcs_-40c_rb14k_st1.meas
.endc
.end
